US04937373
To 4.0 g of 1-(5-bromopentyl)-2,3-dimethoxy benzene in 50 mL of methylene chloride cooled in an ice bath was added 18 mL of 0.8M chlorine in methylene chloride. After 15 minutes, 17 mL of 0.88M chlorine in methylene chloride was added. The reaction mixture was kept at 0° for 3 hours and then was concentrated under reduced pressure to yield an oil. Purification by HPLC using 30% toluene-hexane gave 2.03 g (41% yield) of 1-(5-bromopentyl)-5,6-dichloro-2,3-dimethoxybenzene. The nmr spectrum was consistent with the structure and the mass spectrum gave a molecular ion at m/z 354 (C13H17BrCl2O2).

reactant | 1-(5-bromopentyl)-2,3-dimethoxy benzene | 4.0 g | BrCCCCCC1=C(C(=CC=C1)OC)OC | C13H19BrO2
reactant | chlorine | 0.8M, 18 mL | ClCl | Cl2
reactant | chlorine | 0.88M, 17 mL | ClCl | Cl2
reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-bromopentyl)-5,6-dichloro-2,3-dimethoxybenzene | 2.03 g, 41% yield | BrCCCCCC1=C(C(=CC(=C1Cl)Cl)OC)OC | C13H17BrCl2O2
